US06689733B1
(R,R)N,N′-Bis[4-(N-isopropyl-N-methylamino)salicylidene]-1,2-cyclohexanediamine
Synthesis and working up are carried out as in Example 9, starting from 500 mg (2.59 mmol) of 4-(N-isopropyl-N-methylamino)salicylaldehyde and 141 mg (1.23 mmol) of trans-1,2-cyclohexanediamine. Yield: 504 mg (88%), yellow solid.

reactant | 4-(N-isopropyl-N-methylamino)salicylaldehyde | 2.59 mmol, 500 mg | C(C)(C)N(C)C=1C=C(C(C=O)=CC1)O | C11H15NO2
reactant | trans-1,2-cyclohexanediamine | 1.23 mmol, 141 mg | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
product | (R,R)N,N′-Bis[4-(N-isopropyl-N-methylamino)salicylidene]-1,2-cyclohexanediamine | C(C)(C)N(C)C=1C=C(C(C=N[C@H]2[C@@H](CCCC2)N=CC=2C(O)=CC(=CC2)N(C(C)C)C)=CC1)O | C28H40N4O2
